US04233299
14.5 gm (50 millimols) of methyl 6-chloro-4-hydroxy-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide were reacted with 21.3 gm (150 millimols) of methyl iodide and 50 ml of 1N sodium hydroxide in 165 ml of methanol, yielding 12.35 gm (81% of theory) of methyl 6-chloro-4-hydroxy-2-methyl-2H-1, 2-benzothiazine-3-carboxylate-1,1-dioxide.

reactant | methyl 6-chloro-4-hydroxy-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 50 millimols, 14.5 gm | ClC=1C=CC2=C(C(=C(NS2(=O)=O)C(=O)OC)O)C1 | C10H8ClNO5S
reactant | methyl iodide | 150 millimols, 21.3 gm | CI | CH3I
reactant | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
solvent | methanol | 165 ml | CO | CH4O
product | methyl 6-chloro-4-hydroxy-2-methyl-2H-1, 2-benzothiazine-3-carboxylate-1,1-dioxide | 12.35 gm, 81% | ClC=1C=CC2=C(C(=C(N(S2(=O)=O)C)C(=O)OC)O)C1 | C11H10ClNO5S
